US05373008
Reaction of 4-dimethylcarbamoylmorpholine (3.8 g) in benzene (25 ml) with 4-(2-aminophenyl)morpholine (3.5 g) in the presence of phosphorus oxychloride (2.1 ml) for 40 hours at 80°-85° C. gave N,N-dimethyl-N'-(2-morpholinophenyl)morpholine-4-carboxamidine (m.p. 126°-128° C.) which was recrystallised from hexane.

reactant | 4-dimethylcarbamoylmorpholine | 3.8 g | CN(C(=O)N1CCOCC1)C | C7H14N2O2
reactant | 4-(2-aminophenyl)morpholine | 3.5 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | phosphorus oxychloride | 2.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | N,N-dimethyl-N'-(2-morpholinophenyl)morpholine-4-carboxamidine | CN(C(=NC1=C(C=CC=C1)N1CCOCC1)N1CCOCC1)C | C17H26N4O2
